US07189712B2
Preparation of 4-(ethylsulfonyl)-2-isothiocyanato-1-methoxybenzene
A solution of 5-(ethylsulfonyl)-2-methoxyaniline (15.6 g, 72.5 mmol) in dichloromethane (100 mL) was added dropwise over 1 h to a stirred solution of thiophosgene (9 g, 78.0 mmol) in dichloromethane (300 mL) at RT. After the addition was complete, the reaction was stirred for 2 h. Subsequently, saturated aqueous sodium bicarbonate (200 mL) was added, and the reaction was stirred for an additional 1 h. The organic layer was separated, and the aqueous layer was extracted with dichloromethane (2×100 mL). The combined organic layers were dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to afford the title compound (18.6 g, 72.4 mmol) as a tan solid. 1H NMR (400 MHz, d6-DMSO): δ 7.78 (dd, J1=2.2, J2=8.8, 1H), 7.71 (d, J=2.2, 1H), 7.35 (d, J=8.8, 1H), 3.95 (s, 3H), 3.22 (q, J=7.4, 2H), 1.02 (t, J=7.3, 3H).

reactant | 5-(ethylsulfonyl)-2-methoxyaniline | 72.5 mmol, 15.6 g | C(C)S(=O)(=O)C=1C=CC(=C(N)C1)OC | C9H13NO3S
reactant | thiophosgene | 78.0 mmol, 9 g | C(=S)(Cl)Cl | CCl2S
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 4-(ethylsulfonyl)-2-isothiocyanato-1-methoxybenzene | 72.4 mmol, 18.6 g | C(C)S(=O)(=O)C1=CC(=C(C=C1)OC)N=C=S | C10H11NO3S2
